US06762321B2
4.17 g (10.00 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide, 22.4 g (40.0 mmol) of 10% aqueous potassium hydroxide solution, 1.62 g (5.00 mmol) of tetrabutylammonium bromide and 50 ml of ethylene glycol dimethyl ether were mixed and chlorodifluoromethane gas was blown thereto at room temperature. After a sample was taken out from the reaction mixture and the disappearance of the starting material was confirmed by thin layer chromatography, 5% hydrochloric acid was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid, saturated aqueous sodium bicarbonate solution and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with diethyl ether to give 3.46 g of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-difluoromethoxy-2-(4-methylphenyl)acrylamide (the present compound 1451).

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide | 10.00 mmol, 4.17 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=CO)C1=CC=C(C=C1)C)=O)OC | C26H27NO4
reactant | potassium hydroxide | 40.0 mmol, 22.4 g | [OH-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | hydrochloric acid | Cl | ClH
catalyst | tetrabutylammonium bromide | 5.00 mmol, 1.62 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethylene glycol dimethyl ether | 50 ml | COCCOC | C4H10O2
product | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-difluoromethoxy-2-(4-methylphenyl)acrylamide | 3.46 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=COC(F)F)C1=CC=C(C=C1)C)=O)OC | C27H27F2NO4
